US04536508
5-[[3-[3-[(Phenylmethylamino)methyl]phenoxy]propyl]amino]-1H-1,2,4-triazole-3-methanol
A solution of 5-[[3-(3-formylphenoxy)propyl]amino]-1-methyl-1H-1,2,4-triazole-3-methanol (532 mg) in ethanol (15 ml) was treated with benzylamine (5 ml) and stirred at room temperature for 1.5 h. The solution was treated with sodium borohydride (500 mg) and stirred at room temperature for 16 h. The mixture was evaporated, and the residue partitioned between 2N hydrochloric acid and ethyl acetate. The aqueous layer was washed with ethyl acetate, neutralised with potassium carbonate, and extracted with ethyl acetate. The combined extracts were dried and evaporated in vacuo to yield an oil. This oil was chromatographed on silica gel, using a mixture of methanol-ethyl acetate (1:1) to give the title compound as an oil (315 mg).

reactant | 5-[[3-(3-formylphenoxy)propyl]amino]-1-methyl-1H-1,2,4-triazole-3-methanol | 532 mg | C(=O)C=1C=C(OCCCNC2=NC(=NN2C)CO)C=CC1 | C14H18N4O3
reactant | benzylamine | 5 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium borohydride | 500 mg | [BH4-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-[[3-[3-[(Phenylmethylamino)methyl]phenoxy]propyl]amino]-1H-1,2,4-triazole-3-methanol | 315 mg | C1(=CC=CC=C1)CNCC=1C=C(OCCCNC2=NC(=NN2)CO)C=CC1 | C20H25N5O2
